US05928562
Preparation of 5-Decyl-2-[4-(5-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentoxy)phenyl]-1,3,4-thiadiazole
The title compound was prepared essentially as in Example 1 by combining 5-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentyl chloride (2.4 g, 5.7 mmol, prepared from 1,5-dichloropentane and 2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethanol) with 5-decyl-2-[4-hydroxyphenyl]-1,3,4-thiadiazole (1.4 g, 4.4 mmol, prepared essentially as described by C. Tschierske and D. Girdzivnaite in J. Prakt. Chem. 1991, 135-37). The reaction mixture was quenched by addition of water, and the resulting crude product was recrystallized from ethanol and further purified by Kugelrohr distillation (215-25° C. at 0.01 torr) to provide a yield of 2.3 g.

reactant | 5-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentyl chloride | 5.7 mmol, 2.4 g | FC(OC(C(OC(COCCCCCCl)(F)F)(F)F)(F)F)(F)F | C10H12ClF9O3
reactant | 5-decyl-2-[4-hydroxyphenyl]-1,3,4-thiadiazole | C(CCCCCCCCC)C1=NN=C(S1)C1=CC=C(C=C1)O | C18H26N2OS
product | 5-Decyl-2-[4-(5-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentoxy)phenyl]-1,3,4-thiadiazole | C(CCCCCCCCC)C1=NN=C(S1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(F)(F)F)(F)F)(F)F | C28H37F9N2O4S
